US07737145B2
A solution of N-(2,2-dimethoxyethyl)-4-iodobenzamide (10 g, 30 mmol) in Eaton's reagent (100 mL) was heated at 135° C. for 17 hours. The reaction was allowed to cool and poured into ice water. The brown solid was isolated by filtration. Purification on silica gel eluting with dichloromethane gave 6.7 g of 2-(4-iodophenyl)oxazole, 1H NMR (400 MHz, CDCl3) δ 7.79 (q, 4H), 7.72 (s, 1H), 7.27 (s, 1H).

reactant | N-(2,2-dimethoxyethyl)-4-iodobenzamide | 30 mmol, 10 g | COC(CNC(C1=CC=C(C=C1)I)=O)OC | C11H14INO3
solvent | Eaton's reagent | 100 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 2-(4-iodophenyl)oxazole | 6.7 g | IC1=CC=C(C=C1)C=1OC=CN1 | C9H6INO
